US05849928
Acetic anhydride was added during 5 minutes to a stirred solution of 4-aminophenylsulphur pentafluoride (30.2 g) in acetic acid at 40° C. and then heated at 65° C. for 0.5 hour. The cooled mixture was added to water, stirred for 1 hour and filtered. The solid was washed with water, sodium bicarbonate solution and water, dried and purified by stirring with hexane to give 4-acetamidophenylsulphur pentafluoride (27.0 g), m.p.131°-132° C.

reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-aminophenylsulphur pentafluoride | 30.2 g | NC1=CC=C(C=C1)S(F)(F)(F)(F)F | C6H6F5NS
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-acetamidophenylsulphur pentafluoride | 27.0 g | C(C)(=O)NC1=CC=C(C=C1)S(F)(F)(F)(F)F | C8H8F5NOS
